US04760163
using ethyl 2-nitro-5-(1,2,4,5,6,7-hexahydro-2,4-dioxo-3H-cyclopenta[d]pyrimidin-3-yl)-benzoate with sodium ethylate in ethanol there is obtained ethyl 2-nitro-5-(1,2,4,5,6,7-hexahydro-1-methyl-2,4-dioxo-3H-cyclopenta[d]pyrimidin-3-yl)-benzoate, m.p. 188°-190° C.,

reactant | ethyl 2-nitro-5-(1,2,4,5,6,7-hexahydro-2,4-dioxo-3H-cyclopenta[d]pyrimidin-3-yl)-benzoate | [N+](=O)([O-])C1=C(C(=O)OCC)C=C(C=C1)N1C(NC2=C(C1=O)CCC2)=O | C16H15N3O6
reactant | sodium ethylate | CC[O-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | ethyl 2-nitro-5-(1,2,4,5,6,7-hexahydro-1-methyl-2,4-dioxo-3H-cyclopenta[d]pyrimidin-3-yl)-benzoate | [N+](=O)([O-])C1=C(C(=O)OCC)C=C(C=C1)N1C(N(C2=C(C1=O)CCC2)C)=O | C17H17N3O6
